US04643990
To a solution of tert-butyl 3-oxooctadecanoate (130 g) in methanol (700 ml) was added sodium borohydride (15 g) at 0° C. in a portionwise. The mixture was stirred for 1 hour at 0° C. To the reaction mixture was added ice water and from this whole the object compound was extracted with ethyl acetate. The ethyl acetate solution was washed with water, dried over magnesium sulfate and then evaporated to give a residue which was dried up by using high vacuum pump to afford crude tert-butyl 3-hydroxyoctadecanoate (126.6 g) as an oil.

reactant | tert-butyl 3-oxooctadecanoate | 130 g | O=C(CC(=O)OC(C)(C)C)CCCCCCCCCCCCCCC | C22H42O3
reactant | sodium borohydride | 15 g | [BH4-].[Na+]
solvent | methanol | 700 ml | CO | CH4O
product | tert-butyl 3-hydroxyoctadecanoate | 126.6 g | OC(CC(=O)OC(C)(C)C)CCCCCCCCCCCCCCC | C22H44O3
